US05374720
The same procedure as in Example 8-1 was carried by using allyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (330 mg, 0.66 mmol) and (2S,4S)-N-allyloxycarbonyl-2-(1-allyloxycarbonyl-3-pyrazolidinon-5-yl)-4-mercaptopyrrolidine (234 mg, 0.66 mmol) to obtain allyl (1R,5S,6S)-2-[(2S,4S)-N-allyloxycarbonyl-2-(1-allyloxycarbonyl-3-pyrazolidinon-5-yl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (172 mg, yield: 43.1%).

reactant | allyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 0.66 mmol, 330 mg | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C | C25H26NO8P
reactant | (2S,4S)-N-allyloxycarbonyl-2-(1-allyloxycarbonyl-3-pyrazolidinon-5-yl)-4-mercaptopyrrolidine | 0.66 mmol, 234 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)C1CC(NN1C(=O)OCC=C)=O | C15H21N3O5S
product | allyl (1R,5S,6S)-2-[(2S,4S)-N-allyloxycarbonyl-2-(1-allyloxycarbonyl-3-pyrazolidinon-5-yl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 172 mg, yield: 43.1% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C)C2CC(NN2C(=O)OCC=C)=O | C28H36N4O9S
